US07897624B2
Step a: 4-(4-Bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid
The title compound is prepared from 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid by the procedure described in step e for Example 5, using 4-bromo-2-fluoroaniline instead of 2-fluoro-4-iodoaniline. The title compound is used for the next reaction without further purification.

reactant | 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | ClC=1C(=CN(C(C1C)=O)C)C(=O)O | C8H8ClNO3
reactant | 4-bromo-2-fluoroaniline | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
product | 4-(4-Bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | BrC1=CC(=C(C=C1)NC=1C(=CN(C(C1C)=O)C)C(=O)O)F | C14H12BrFN2O3
